US06407120B1
1-(3-Dimethylamino)propyl-3-ethylcarbodiimide hydrochloride (EDC, 210 mg, 1.1 mmol, 1.2 equiv) was added to a solution of acid (190 mg, 0.91 mmol, 1.0 equiv), 4-aminoacetophenone (120 mg, 0.91 mmol, 1.0 equiv) and 1-hydroxybenzotriazole (HOBT, 190 mg, 1.4 mmol, 1.5 equiv) in dichloromethane at 23° C. The reaction mixture was stirred at 23° C. for 18 hours, diluted with ethyl acetate (50 mL), washed once with 1N sodium hydroxide (25 mL) and once with 1N hydrochloric acid (25 mL). The organics were dried over magnesium sulfate and concentrated. The residue was purified by flash column chromatography (25% THF/hexanes) to provide N-(4-Acetyl-phenyl)-2,2-diphenyl-acetamide (140 mg). MS: 330 (M+1)

reactant | 4-aminoacetophenone | 0.91 mmol, 120 mg, 1.0 equiv | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | 1-hydroxybenzotriazole | 1.4 mmol, 190 mg, 1.5 equiv | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-Acetyl-phenyl)-2,2-diphenyl-acetamide | 140 mg | C(C)(=O)C1=CC=C(C=C1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H19NO2
